Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
subacute dyspnea on exertion
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
 Ms. ___ is a ___ yo F with a history of AF on apixaban,
diastolic dysfunction and mild cognitive decline who presents to
the ED for evaluation of progressive dyspnea on exertion and RV
volume overload, newfound RA enlargement and moderate-to-severe
TR. 

Her story begins with a new diagnosis of atrial fibrillation in
___, for which she received an echo on ___ at which time she
had an EF of 60%, mild to moderate MR, mild TR, normal RV
function and size, and RVSP 35. This year, she went to ___ and walked nearly five miles with her family without issue.
Since then, she has largely been sedentary, living on the first
floor of a 2-story house. She is able to walk from her car to 
the
grocery store. Other than this, however, she has not been
challenged. Of note, her primary care doctor checked her LFTs in
___ that showed elevated LFTs that continued to worsen until
this admission. Symptomatically, over the last month, her mother
had dyspnea on exertion which has progressed to the point that
she has to stop when walking short distances (e.g. walking up
stairs). The patient states that she feels short of breath and
intermittent chest pain when carrying the laundry up and down 
the
stairs at home. She denies nausea, orthopnea, paroxysmal
nocturnal dyspnea, or abdominal pain. This is accompanied by
decreased oral intake, ___ edema and pain. She also endorsed a
weight loss (30 pounds over the past 6 months). When her 
daughter
noticed her progressive symptoms, she brought her to the ___ ED
on ___, where she had an echocardiogram and lab testing. The 
TTE
showed normal LV size with EF 50-55%, mild IVS flattening c/w RV
volume overload, mild MR, mod-severe RV dilation with mild
dysfunction, moderate to severe TR, and RA enlargement with PASP
36.  Her daughter feels that she was slightly better for one day
after this, but that she again worsened. 

Labs were performed on ___ with elevated Tbili 1.7,AST 46,
Alk phos 351 (Tbili 0.8 in ___ and alk phos 199). This
prompted liver evaluation including normal hepatitis panel,
ammonia, CT AP without pathologic finding except ___
hernia, diverticulosis, and enlarged cardiac silhouette; RUQ 
with
___ fluid and minimal ascites; HIDA negative; MRCP
negative for GB/biliary tree pathology. She saw a hepatologist 
at
___ today who felt that this was most likely cardiac 
cause
for LFT abnormalities and recommended further cardiac 
evaluation.

 In the ED initial vitals were: 98.8 69 113/49 20 98% RA 
 
 EKG: ECG today: PRWP across precordium and inferior, afib 64,
IVCD-LBBB like, LAD. ECG ___: Afib, VPB, LAD, PRWP, IVCD-
LBBB-like.  
 Labs/studies notable for: proBNP: 2865. Trop: <0.01, ___ neg
 Patient was given: IV Lasix 40 mg  
 Vitals on transfer: 97.7 120 / 57 80 18 97 
 
 REVIEW OF SYSTEMS:  
 Cardiac review of systems is notable for absence of chest pain,
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea,
ankle edema, palpitations, syncope, or presyncope.  
 
On further review of systems, denies any prior history of
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding
at the time of surgery, myalgias, joint pains, cough, 
hemoptysis,
black stools or red stools. Denies exertional buttock or calf
pain. Denies recent fevers, chills or rigors. All of the other
review of systems were negative.
 
Past Medical History:
1. CARDIAC RISK FACTORS  
 - Hypertension  
 2. CARDIAC HISTORY  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY  
 - H. pylori infection

 
Social History:
___
Family History:
Father and brother had history of alcoholic cirrhosis. Mother
passed away from unspecified heart disease. 
 
Physical Exam:
Admission Exam:
=============
VITALS: 97.7 120 / 57 80 18 97  
 GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate. Mild cognitive deficit. 
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, 
no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
 NECK: Supple with JVP of 15 cm.  
 CARDIAC: irregularly irregular, normal S1, S2. No murmurs.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
 ABDOMEN: Soft, NTND. 
 EXTREMITIES: 2+ pitting edema in lower extremities  

Discharge Exam:
===============
 VS: T 97.7 BP 108 / 62 HR 77 RR 18 SO2 92 RA 
 Telemetry: AF
 General: sitting comfortably, no apparent distress
 HEENT: JVP not elevated
 Lungs: good air movement, ctab
 CV: irregularly irregular, no murmurs or gallops
 Abdomen: soft, ntnd
 ___: trace edema blt lower extremities
 
 
Pertinent Results:
Admission Labs:
============
___ 11:35AM BLOOD WBC-9.3 RBC-4.03 Hgb-12.7 Hct-38.1 MCV-95 
MCH-31.5 MCHC-33.3 RDW-15.9* RDWSD-54.9* Plt ___
___ 11:35AM BLOOD Neuts-60.1 ___ Monos-14.7* 
Eos-1.5 Baso-0.9 Im ___ AbsNeut-5.58 AbsLymp-2.07 
AbsMono-1.37* AbsEos-0.14 AbsBaso-0.08
___ 11:35AM BLOOD ___
___ 11:35AM BLOOD UreaN-20 Creat-0.9 Na-143 K-4.4 Cl-98 
HCO3-29 AnGap-16
___ 11:35AM BLOOD ALT-26 AST-98* AlkPhos-578* TotBili-2.9*
___ 11:35AM BLOOD proBNP-3254*
___ 11:35AM BLOOD Albumin-3.4* Calcium-9.4 Phos-3.1 Mg-2.0 
Iron-97
___ 11:35AM BLOOD calTIBC-273 TRF-210
___ 11:35AM BLOOD TSH-2.2
___ 11:35AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-NEG
___ 11:35AM BLOOD AMA-NEGATIVE Smooth-POSITIVE*
___ 11:35AM BLOOD ___ Titer-PND AFP-2.8
___ 11:35AM BLOOD ___

Discharge Labs: 
===============
___ 08:00AM BLOOD WBC-8.3 RBC-4.60 Hgb-14.3 Hct-43.5 MCV-95 
MCH-31.1 MCHC-32.9 RDW-16.1* RDWSD-54.0* Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD Glucose-100 UreaN-27* Creat-1.1 Na-141 
K-3.8 Cl-98 HCO3-29 AnGap-14
___ 08:00AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.1

Imaging: 
======
___   LIVER OR GALLBLADDER US:
Normal abdominal ultrasound.
     
___     CT CHEST W/O CONTRAST:
1. Cardiomegaly with biatrial enlargement. 
2. Mild prominence of the right and left main pulmonary arteries 
can be seen in pulmonary arterial hypertension. 
3. Scattered nonspecific subtle foci of ground-glass are 
present, which may represent early edema. 
4. No evidence of airspace consolidation. 
     
___:
Moderately dilated right ventricle with mildly hypokinetic 
function in the setting of at least moderate to severe tricuspid 
regurgitation and borderline pulmonary artery hypertension. Mild 
regional left ventricular systolic dysfunction with at least 
moderate mitral regurgitation.     
___ LOWER ___ VEINS:
1. No evidence of deep venous thrombosis in the right lower 
extremity veins. 
2. Right ___ cyst. 

 
Brief Hospital Course:
___ with a history of AF on apixaban and chronic diastolic CHF 
who was admitted for SOB, volume overload, and concern for 
congestive hepatopathy.  Diuresed and discharged with cardiology 
and liver follow up.

Investigations/Interventions:
1. Acute on chronic diastolic CHF: patient takes Lasix 40 mg po 
daily at home.  She was seen in liver clinic for elevated LFTs 
and hepatologist concerned for congestive hepatopathy so 
referred for admission.  Echo performed showed mostly R-sided 
dysfunction and some mild wall motion abnormalities in the 
___ region.  She was diuresed with 40 IV Lasix x 1 
then torsemide 20 po bid.  She quickly achieved euvolemia with 
stable kidney function.  Discharge diuretic regimen Torsemide 30 
mg daily.  Recommend recheck of kidney function labs at ___ 
visit on ___.

Etiology of R-sided dysfunction is unclear.  She does not have 
significant pulmonary disease nor L-sided heart disease.  It is 
possible her valve abnormalities of 2+ MR and 3+ TR seen on echo 
are the culprit and should be followed by her outpatient 
cardiologist.  

Regarding WMA on echo, these were mild.  We defer to outpatient 
cardiologist to consider stress testing.

2. SOB: on admission which improved with diuresis.  She walked 
stairs on day of discharge with sats of 93% on RA.

3. Elevated LFT's: AST in ___, Tbili in 2's which has been an 
ongoing outpatient issue.  These did not change with diuresis.  
Abd US in house normal.  Follow up with liver clinic arranged.

4. Atrial fibrillation: continued apixaban and bisoprolol on 
discharge.

Transitional Issues:
[]Discharge weight: 80.1 kg
[]Discharge Cr: 1.1
[]PCP, ___, liver follow up
[]New medication: Torsemide 30 mg po daily
[]Recommend recheck BMP at PCP visit on ___ as pt on a new 
diuretic regimen

#Code: Full (confirmed)
#Contact: Daughter ___ ___ ___ ___ prefers work 
number
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Furosemide 40 mg PO DAILY 
3. Potassium Chloride 10 mEq PO DAILY 
4. Allopurinol ___ mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. bisoprolol fumarate 5 mg oral DAILY 

 
Discharge Medications:
1.  Torsemide 30 mg PO DAILY 
RX *torsemide 20 mg 1.5 tablet(s) by mouth daily Disp #*45 
Tablet Refills:*0 
2.  Allopurinol ___ mg PO DAILY  
3.  Apixaban 5 mg PO BID  
4.  bisoprolol fumarate 5 mg oral DAILY  
5.  Omeprazole 20 mg PO DAILY  
6.  Potassium Chloride 10 mEq PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic diastolic CHF
Elevated LFTs

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___,

___ were hospitalized for fluid overload related to your heart.  
We changed your medications to remove this fluid.  ___ will have 
follow up with your cardiologist, PCP, and liver doctor. 

It was a pleasure taking care of ___!
Your ___ team
 
Followup Instructions:
___